US07326791B2
N-[(1S)-5-amino-1-(5-chloro-1H-benzimidazol-2-yl)pentyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
0.3 g (0.49 mmol) of N-[(1S)-5-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)pentyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide is dissolved in 15 mL of dichloromethane and, after the addition of 0.25 mL (0.76 mmol) of iodotrimethylsilane, stirred for 3 hours at ambient temperature. Then 10 mL of methanol is added and the mixture is stirred for a further 30 minutes. The solvent is distilled off and the residue is chromatographed on silica gel, eluting with dichloromethane/methanol (80:20). Yield: 0.22 g (96%); Rf value: 0.15 (silica gel; dichloromethane/methanol=9:1); C25H30ClN5O2 (468.00); mass spectrum: (M+H)+=468/470 (chlorine isotope).

reactant | N-[(1S)-5-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)pentyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | 0.49 mmol, 0.3 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C33H36ClN5O4
reactant | iodotrimethylsilane | 0.76 mmol, 0.25 mL | I[Si](C)(C)C | C3H9ISi
reactant | methanol | 10 mL | CO | CH4O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-[(1S)-5-amino-1-(5-chloro-1H-benzimidazol-2-yl)pentyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | NCCCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C25H30ClN5O2
